US07368578B2
A mixture of (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid (0.40 g), 1-hydroxybenzotriazole monohydrate (0.17 g), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.22 g), morpholine (0.10 g) and N,N-dimethylformamide (10 mL) was stirred at room temperature for 15 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated to give 4-((2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoyl)morpholine as yellow crystals (0.41 g, yield 91%). Recrystallization from ethyl acetate-hexane gave yellow prism crystals. melting point: 180-181° C.

reactant | (2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-4-oxazolyl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoic acid | 0.40 g | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)O)C2=CC=CC=C2)C=C1)OC)C | C29H25N3O7
reactant | 1-hydroxybenzotriazole monohydrate | 0.17 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.22 g | Cl.C(C)N=C=NCCCN(C)C
reactant | morpholine | 0.10 g | N1CCOCC1 | C4H9NO
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-((2E)-3-{3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1-phenyl-1H-pyrazol-4-yl}-2-propenoyl)morpholine | 0.41 g, yield 91% | O1C(=CC=C1)C=1OC(=C(N1)COC1=C(C=C(COC2=NN(C=C2/C=C/C(=O)N2CCOCC2)C2=CC=CC=C2)C=C1)OC)C | C33H32N4O7
